US04101307
Preparation of 2-(β-methylthioethyl)-1,3-dioxolane (Compound 3)
1040 g (10 moles) of freshly distilled methional, 650 g (10.5 moles) of ethylene glycol, 400 cc of benzene, 800 cc of dioxan and 10 g of p-toluene sulphonic acid are heated under reflux until the azeotropic entrainment of the water formed during the reaction, which takes 2 hours, is over. The acid medium is then neutralized by the addition of 10 g of dry sodium carbonate, after which the solution is concentrated to dryness in a water pump vacuum.

reactant | methional | CSCCC=O | C4H8OS
reactant | ethylene glycol | 10.5 moles, 650 g | C(CO)O | C2H6O2
reactant | p-toluene sulphonic acid | 10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | dioxan | 800 cc | O1CCOCC1 | C4H8O2
solvent | benzene | 400 cc | C1=CC=CC=C1 | C6H6
product | 2-(β-methylthioethyl)-1,3-dioxolane | CSCCC1OCCO1 | C6H12O2S
